US07087754B2
1-(2-Fluorobenzyl)-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (Example 14)
A solution of 4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (219 mg, 1 mmol) in DMF (2 mL) at 0° C. was treated with NaH (40 mg, 60%, 1 mmol), stirred for 20 min, treated with 2-fluorobenzyl bromide (120 μL, 1 mmol), stirred at room temperature for 1 h, quenched with water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography EtOAc:Heptane, 1:4) to give the title compound (250 mg, 76%) as a cream solid.

reactant | 4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 1 mmol, 219 mg | O1C(=CC=C1)C1=C2C(=NC(=N1)N)NN=C2 | C9H7N5O
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
reactant | 2-fluorobenzyl bromide | 1 mmol, 120 μL | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2-Fluorobenzyl)-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 250 mg, 76% | FC1=C(CN2N=CC=3C2=NC(=NC3C=3OC=CC3)N)C=CC=C1 | C16H12FN5O
